US05512575
f. 1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(2-ethylthio-3-pyridyl)piperidin-4-ol
To a solution of the 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(2-fluoro-3-pyridyl)piperidin-4-ol (described in e. above) (2.00 g, 5.00 mmol, 1 eq) in THF (50 mL) under nitrogen was added the sodium salt of ethanethiol (0.90 g, 10.7 mmol, 2.2 eq). The thiolate salt was prepared from ethanethiol and sodium hydride under standard conditions. The reaction was heated to reflux for 18 h and quenched by pouring into water (100 mL). The aqueous phase was extracted with diethyl ether (2×100 mL), dried over anhydrous sodium sulfate, filtered, and reduced to an oil. The reaction product was purified by flash chromatography over silica gel (200 mL, eluent: 50% ether in hexane) to yield 2.00 g (90%) of the title compound. TLC analysis (Rf 0.29, 50% ether in hexane). 1HNMR (CDCl3, 250 MHz) 8.35 (dd, J=1.6, 4.7 Hz, 1H), 7.58 (dd, J=1.7, 7.7 Hz, 1H), 7.22 (m, 4H), 6.95 (m, 5H), 4.27 (s, 1H), 3.58 (s, 1H), 3.48 (s, 2H), 3.28 (q, J=7.3 Hz, 2H), 2.89 (m, 2H), 2.80 (ddd, J=9.3, 14.9, 10.7 Hz, 2H) 2.62 (d, J=1.5 Hz, 2H), 2.12 (m, 4H), 1.35 (t, J=7.2 Hz, 3H) MS (Cl, CH4) m/z 443 (M+1,100), 471 (M+29,16), 425 (25). The free base was dissolved in ether and acidified with ethereal HCl. The hydrochloride salt was filtered, rinsed with fresh ether and dried in vacuo (room temperature, 10 pascal, 18 h) to yield a white solid, mp 176-179 (dec).

reactant | 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(2-fluoro-3-pyridyl)piperidin-4-ol | 5.00 mmol, 2.00 g, 1 eq | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)(O)C=3C(=NC=CC3)F | C26H25FN2O
reactant | sodium | [Na] | Na
reactant | ethanethiol | 10.7 mmol, 0.90 g, 2.2 eq | C(C)S | C2H6S
reactant | sodium hydride | [H-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(2-ethylthio-3-pyridyl)piperidin-4-ol | 2.00 g, 90% | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)(O)C=3C(=NC=CC3)SCC | C28H30N2OS
